US07157455B2
[4-Amino-2-[1-(3-chloro-propane-1-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(2,3-difluoro-6-methoxy-phenyl)-methanone (Example 226) was reacted with sodium acetate in an analogous manner as described in Example 227 to give acetic acid 3-[4-[4-amino-5-(2,3-difluoro-6-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-sulfonyl]-propyl ester. The crude acetic acid 3-[4-[4-amino-5-(2,3-difluoro-6-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-sulfonyl]-propyl ester was hydrolyzed with 5% potassium hydroxide to give [4-amino-2-[1-(3-hydroxy-propane-1-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(2,3-difluoro-6-methoxy-phenyl)-methanone. HR-MS (ES, m/z) calculated for C20H26N5O5SF2 [(M+H)+] 486.1617, observed 486.1623.

reactant | acetic acid 3-[4-[4-amino-5-(2,3-difluoro-6-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-sulfonyl]-propyl ester | NC1=NC(=NC=C1C(C1=C(C(=CC=C1OC)F)F)=O)NC1CCN(CC1)S(=O)(=O)CCCOC(C)=O | C22H27F2N5O6S
reactant | potassium hydroxide | [OH-].[K+]
product | [4-amino-2-[1-(3-hydroxy-propane-1-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(2,3-difluoro-6-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C(=CC=C1OC)F)F)NC1CCN(CC1)S(=O)(=O)CCCO | C20H25F2N5O5S
